US07105507B2
1,1-Dimethylethyl 4,4-Bis(hydroxymethyl)-1-piperidinecarboxylate
A solution of 1-(1,1-dimethylethyl) 4-ethyl 1,4-piperidinedicarboxylate (10 g, 39 mmol) in tetrahydrofuran (100 mL) was added to a stirred, cooled (−78° C.) solution of lithium diisopropylamide in tetrahydrofuran (0.82M, 140 mL) and the mixture was stirred at −78° C. for 2 h, then at −40° C. for 3 hours. The mixture was cooled to −78° C., ethyl chloroformate (13 mL, 136 mmol) in tetrahydrofuran (80 mL) was added and the mixture was allowed to warm to room temperature over 16 hours. Saturated aqueous ammonium chloride (50 mL), hydrochloric acid (1M, 2000 mL) and ethyl acetate (3000 mL) were added and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×150 mL), the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was dissolved in toluene/tetrahydrofuran (1:1, 400 mL) and lithium borohydride (4.5 g, 207 mmol) was added. The mixture was heated at 60° C. for 16 hours, cooled and saturated aqueous ammonium chloride was added slowly until the organic layer was a clear solution. The mixture was adjusted to pH 12 with saturated aqueous sodium carbonate and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×150 mL), the combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (50:50 increasing to 0:100), to give the title compound (6.1 g, 63%). m/z (ES+) 190 (M+1-C4H8).

reactant | 1-(1,1-dimethylethyl) 4-ethyl 1,4-piperidinedicarboxylate | 39 mmol, 10 g | N1(CCC(CC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl chloroformate | 136 mmol, 13 mL | ClC(=O)OCC | C3H5ClO2
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
reactant | hydrochloric acid | 1M, 2000 mL | Cl | ClH
reactant | lithium borohydride | 207 mmol, 4.5 g | [BH4-].[Li+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.82M, 140 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 3000 mL | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 4,4-Bis(hydroxymethyl)-1-piperidinecarboxylate | 6.1 g, 63% | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C12H23NO4
